### PR TITLE
restr_rel lemmas

### PR DESCRIPTION
**Pull request by eupp**
Some useful lemmas about `restr_rel`. 
Also, removed `union_restr` lemma since it is a duplicate of `restr_union`.

### CODE REVIEW

File: HahnEquational.v [hunk 1]
```diff
@@ -918,30 +925,47 @@ Lemma restr_minus_alt A (f : A -> Prop) r r' :
...
+Lemma restr_set_union A (s s' : A -> Prop) r :
+  restr_rel (s ∪₁ s') r ≡
+    restr_rel s r ∪ restr_rel s' r ∪ ⦗s⦘ ⨾ r ⨾ ⦗s'⦘ ∪ ⦗s'⦘ ⨾ r ⨾ ⦗s⦘.
+Proof. u; eauto 10. Qed.
+
+Lemma restr_set_inter A (s s' : A -> Prop) r :
+  restr_rel (s ∩₁ s') r ≡ restr_rel s r ∩ restr_rel s' r.
+Proof. u. Qed.
+
+Lemma restr_inter_absorb_l A (s : A -> Prop) r r' :
```
Comment (vafeiadis) [inline HahnEquational.v]: maybe rename to: inter_restr_absorb_l

File: HahnEquational.v [hunk 2]
```diff
@@ -918,30 +925,47 @@ Lemma restr_minus_alt A (f : A -> Prop) r r' :
...
+  restr_rel s r ∩ restr_rel s r' ≡ r ∩ restr_rel s r'.
+Proof. u. Qed.
+
+Lemma restr_inter_absorb_r A (s : A -> Prop) r r' :
```
Comment (vafeiadis) [inline HahnEquational.v]: same here

File: HahnEquational.v [hunk 3]
```diff
@@ -902,6 +902,9 @@ Lemma restr_relE A (d : A -> Prop) r :
   restr_rel d r ≡ <| d |> ;; r ;; <| d |>. 
 Proof. rewrite seq_eqv_lr; u. Qed. 
 
+Lemma restr_relE_alt A (d : A -> Prop) r : restr_rel d r ≡ r ∩ d × d.
```
Comment (eupp) [inline HahnEquational.v]: Just notice that, but it seems for this kind of lemmas the suffix `_EE` instead of `E_alt` is used often in Hahn. 
@vafeiadis, what do you think, which one is a better name?

File: HahnEquational.v (hunk 1 above)
Comment (eupp) [reply HahnEquational.v]: Ok, will do that.

File: HahnEquational.v (hunk 3 above)
Comment (vafeiadis) [reply HahnEquational.v]: I don't have a strong opinion: EE is shorter (and that's why it is often used).

File: HahnEquational.v (hunk 1 above)
Comment (eupp) [reply HahnEquational.v]: Done
